US04670562
7-Chloro-1,10a-dihydropyrrolo[1,2-b]isoquinoline-3,10[2H,5H]-dione
To a solution of 25.37 g of (±)-1-[(3-chlorophenyl)methyl]-5-oxo-2-pyrrolidinecarboxylic acid in sieve dried dichloromethane (20 ml), 13.09 g of thionyl chloride was added, and the resultant solution was stirred and refluxed with the exclusion of moisture for 6 hours. An infrared spectrum of the solution indicated the presence of the acid chloride. After standing overnight at ambient temperature, the solution was chilled to 5° C. and 40 g of aluminum chloride was added in portions with exclusion of moisture and vigorous stirring. The reaction was slightly exothermic and a solid began to precipitate. The flask was heated intermittently with a steam bath to increase the rate of the reaction. After each heating, the gas evolution was allowed to subside. When heating did not produce gas evolution, ice chips were added to quench the reaction. Water was then added to the mixture and the phases were separated. The aqueous phase was extracted with dichloromethane and the combined organic phase was dried (Na2SO4). The mixture was vacuum filtered and concentrated to a solid to which ethyl acetate was added and the resultant mixture was vacuum filtered to give 11.56 g of a solid. The solid was dried overnight under vacuum.

reactant | (±)-1-[(3-chlorophenyl)methyl]-5-oxo-2-pyrrolidinecarboxylic acid | 25.37 g | ClC=1C=C(C=CC1)CN1C(CCC1=O)C(=O)O | C12H12ClNO3
reactant | thionyl chloride | 13.09 g | S(=O)(Cl)Cl | Cl2OS
reactant | aluminum chloride | 40 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | Water | O | H2O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 7-Chloro-1,10a-dihydropyrrolo[1,2-b]isoquinoline-3,10[2H,5H]-dione | 11.56 g | ClC=1C=CC=2C(C3N(CC2C1)C(CC3)=O)=O | C12H10ClNO2
